US03992535
70.0 gm (0.30 mol) of 3-oxo-naphth[2,1-d]isothiazoline-1,1-dioxide were added to a solution of 7.82 gm (0.34 gm-atom) of sodium in 300 ml of absolute methanol. The majority of the alcohol was subsequently distilled off, and the residual sodium salt of 3-oxo-naphth[2,1-d]isothiazoline-1,1-dioxide was dissolved in 100 ml of absolute dimethylsulfoxide. At a temperature of 50° C, 43.41 gm (0.40 mol) of methyl chloroacetate were added dropwise to this solution. The resulting mixture was stirred at room temperature for half an hour, then slowly heated to 130° C and finally kept at this temperature for 2.5 hours. Then, the dimethylsulfoxide was distilled off in vacuo, andthe residue was stirred into a solution of 40 gm of sodium acetate in 400 ml of water, filtered off and washed with water and ice-cold methanol, yielding 90.0 gm (98% of theory) of 3-oxo-naphth[2,1-d]isothiazoline-2-acetic acid methyl ester-1,1-dioxide, m.p. 188° C (methanol/ethylene chloride).

reactant | 3-oxo-naphth[2,1-d]isothiazoline-1,1-dioxide | 0.30 mol, 70.0 gm | O=C1NS(C2=C1C=CC1=CC=CC=C12)(=O)=O | C11H7NO3S
reactant | sodium | 7.82 gm | [Na] | Na
reactant | methyl chloroacetate | 0.40 mol, 43.41 gm | ClCC(=O)OC | C3H5ClO2
solvent | methanol | 300 ml | CO | CH4O
product | 3-oxo-naphth[2,1-d]isothiazoline-2-acetic acid methyl ester-1,1-dioxide | 90.0 gm, 98% | COC(CN1S(C2=C(C1=O)C=CC1=CC=CC=C12)(=O)=O)=O | C14H11NO5S
